US05051422
4-[(Methylsulfonyl)amino]-N-[[1-phenyl-4-(phenylmethyl)piperazin-2-yl]methyl] benzamide
In a manner similar to Preparation 3, react 1-phenyl-4-(phenylmethyl)-2-piperazinemethanamine (11.1 g, 40 mmol) with 4-[(methylsulfonyl)amino]benzoyl chloride (10.1 g, 43 mmol) to obtain the title compound.

reactant | 1-phenyl-4-(phenylmethyl)-2-piperazinemethanamine | 40 mmol, 11.1 g | C1(=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CN | C18H23N3
reactant | 4-[(methylsulfonyl)amino]benzoyl chloride | 43 mmol, 10.1 g | CS(=O)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C8H8ClNO3S
product | 4-[(Methylsulfonyl)amino]-N-[[1-phenyl-4-(phenylmethyl)piperazin-2-yl]methyl] benzamide | CS(=O)(=O)NC1=CC=C(C(=O)NCC2N(CCN(C2)CC2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C26H30N4O3S
